* source BB_BUCK
V_V4         VCC 0 15Vdc
V_V3         0 VEE 15Vdc
R_R1         0 N03441  50 TC=0,0 
V_V2         N03407 N03423  
+PULSE 0 5 0 0.01us 0.01us {DUTY} 10us
V_V1         N03413 0 70Vdc
R_R2         N03441 OUT  0.1 TC=0,0 
D_D1         0 N03423 D1N5818 
L_L1         N03423 OUT  0.5mH  
M_M1         N03413 N03407 N03423 N03423 IRF150
C_C1         0 OUT  470uF  TC=0,0 
.PARAM  r1=100k duty=1us
